US04886894
Diethyl 2-[[N-(chloroacetyl)glycyl]amino]malonate (0.68 g) is added to 1N aqueous sodium hydroxide (4.7 ml), and the mixture is reacted at room temperature for 10 hours, and the reaction mixture is concentrated. The residue is washed with methanol to give disodium 2-[[N-(chloroacetyl)glycyl]amino]malonate (0.65 g).

reactant | Diethyl 2-[[N-(chloroacetyl)glycyl]amino]malonate | 0.68 g | ClCC(=O)NCC(=O)NC(C(=O)OCC)C(=O)OCC | C11H17ClN2O6
reactant | sodium hydroxide | 1N, 4.7 ml | [OH-].[Na+]
product | disodium 2-[[N-(chloroacetyl)glycyl]amino]malonate | 0.65 g | ClCC(=O)NCC(=O)NC(C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C7H9ClN2O6.2Na/c8-1-3(11)9-2-4(12)10-5(6(13)14)7(15)16;;/h5H,1-2H2,(H,9,11)(H,10,12)(H,13,14)(H,15,16);;/q;2*+1/p-2
